US06784192B2
4-[2-(3-Methylsulfonyl-2-thienyl)ethyl]piperidine hydrochloride
11.1 g of 1-tert-butoxycarbonyl-4-[2-(3-methylsulfonyl-2-thienyl)ethyl]piperidine was dissolved in 100 ml of ethyl acetate, 100 ml of an ethyl acetate solution of 4N hydrochloric acid was added thereto, and the mixture was further stirred at room temperature for 2 hours. The resulting crystals were collected by filtration, washed with ethyl acetate, and air-dried, to give 7.92 g of the title compound as colorless crystals.

reactant | 1-tert-butoxycarbonyl-4-[2-(3-methylsulfonyl-2-thienyl)ethyl]piperidine | 11.1 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CCC=1SC=CC1S(=O)(=O)C | C17H27NO4S2
reactant | hydrochloric acid | 4N | Cl | ClH
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 4-[2-(3-Methylsulfonyl-2-thienyl)ethyl]piperidine hydrochloride | 7.92 g | Cl.CS(=O)(=O)C1=C(SC=C1)CCC1CCNCC1 | InChI=1S/C12H19NO2S2.ClH/c1-17(14,15)12-6-9-16-11(12)3-2-10-4-7-13-8-5-10;/h6,9-10,13H,2-5,7-8H2,1H3;1H
